US05340694
84.5 g (0.485 mol) of Compound (k) and 100 ml of ether were cooled to 5° C. or lower. With stirring, 60 ml of an ether solution containing 48.1 g (0.728 mol) of cyclopentadiene, produced by pyrolysis of dicyclopentadiene, were added dropwise thereto. The reaction system was then stirred for one hour, and the solvent was removed by distillation under reduced pressure. By further distillation under reduced pressure, 101 g (86%) of Compound (m) were obtained as a colorless liquid, having a boiling point of 104° to 105° C./0.48 mmHg.

reactant | cyclopentadiene | 0.728 mol, 48.1 g | C1=CC=CC1 | C5H6
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
